US06509328B1
8-Isopropyl-4-[3-(2-methyl-imidazol-1-yl)-phenyl]-1,3-dihydro-benzo [b][1,4]diazepin-2-one
Prepared from (4-isopropyl-2-{3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert.-butyl ester (Example K88) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light brown solid (94 mg).

reactant | (4-isopropyl-2-{3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(C)C)NC(CC(=O)C1=CC(=CC=C1)N1C(=NC=C1)C)=O)=O | C27H32N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Isopropyl-4-[3-(2-methyl-imidazol-1-yl)-phenyl]-1,3-dihydro-benzo [b][1,4]diazepin-2-one | 94 mg | C(C)(C)C=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2C(=NC=C2)C)=O)C1 | C22H22N4O
